US05043094
The procedure of Example 11 was repeated except that the 4-cyanophenol was replaced with 0.60 g of 4-(4'-cyanophenyl)phenol. The crude product thus obtained was then recrystallized from ethyl alcohol. Thus 0.49 g of optically active (S,S)-2,4-bis[4'-(4"-cyanophenyl)phenoxy]pentane was obtained (m.p.: 139.5° C.).

reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 4-(4'-cyanophenyl)phenol | 0.60 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
product | (S,S)-2,4-bis[4'-(4"-cyanophenyl)phenoxy]pentane | C(#N)C1=CC=C(C=C1)C1=CC=C(O[C@@H](C)C[C@H](C)OC2=CC=C(C=C2)C2=CC=C(C=C2)C#N)C=C1 | C31H26N2O2
